US04435322
Diethyl 1-(2-ethoxycarbonylethyl)-4-oxo-2,2-azetidine-dicarboxylate
To a solution of 19.7 g. (0.056 moles) of diethyl N-(2-ethoxycarbonylethyl)-N-(chloroacetyl)-amino-malonate prepared according to Example 2 in 200 ml. of dry benzene 13 ml. (9.5 g., 0.095 moles) of triethyl amine are added and the reaction mixture is boiled for 3 hours. The solution is shaken with two 50-ml. portions of a 5% aqueous hydrochloric acid solution and subsequently with 50 ml. of water, the benzene phase is dried with magnesium sulfate, filtered and the filtrate is evaporated in vacuo. 16.5 g. (93%) of the named compound are obtained. The product is practically uniform and can be used for further conversions without further purification.

reactant | diethyl N-(2-ethoxycarbonylethyl)-N-(chloroacetyl)-amino-malonate | 0.056 moles | C(C)OC(=O)CCN(C(CCl)=O)C(C(=O)OCC)C(=O)OCC | C14H22ClNO7
reactant | triethyl amine | 0.095 moles, 9.5 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 13 ml | C1=CC=CC=C1 | C6H6
product | Diethyl 1-(2-ethoxycarbonylethyl)-4-oxo-2,2-azetidine-dicarboxylate | 93% | C(C)OC(=O)CCN1C(CC1=O)(C(=O)OCC)C(=O)OCC | C14H21NO7
